US07923450B2
e) {2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-5,6,7,8-tetrahydro-quinazolin-8-yl}-morpholin-4-yl-methanone
The title compound was prepared from 2-[1-dimethylamino-methylidene]-6-(morpholine-4-carbonyl)-cyclohexanone (16 mg, 0.06 mmol) and N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (17 mg, 0.045 mmol) using in analogous manner the procedure described in example 45b). Obtained as a yellow solid (5 mg, 25%). MS ISP (m/e): 449.4 (100) [(M+H)+].

reactant | 2-[1-dimethylamino-methylidene]-6-(morpholine-4-carbonyl)-cyclohexanone | 0.06 mmol, 16 mg | CN(C=C1C(C(CCC1)C(=O)N1CCOCC1)=O)C | C14H22N2O3
reactant | N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 0.045 mmol, 17 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
product | {2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-5,6,7,8-tetrahydro-quinazolin-8-yl}-morpholin-4-yl-methanone | COC=1C=C(C=CC1N1C=NC(=C1)C)NC1=NC=2C(CCCC2C=N1)C(=O)N1CCOCC1 | C24H28N6O3
